US06010733
N,N-dibenzyl-(1R,2S,4S)-1-methyl-2-hydroxy-4-phenylhexylamine (1.46 g, 3.77 mmols) was dissolved in 25 ml of methanol, and 0.43 ml (7.53 mmols) of acetic acid and 0.6 g of 5% palladium on carbon (water content 50%) were added thereto. The reaction solution was stirred under a hydrogen atmosphere at 50° C. for 16 hours. Subsequently, the catalyst was removed by filtration, and the filtrate was concentrated. To the residue were added 15 ml of a saturated aqueous solution of sodium hydrogencarbonate, and the mixture was extracted twice with 50 ml of methylene chloride. The organic layer was dried over anhydrous magnesium sulfate, and magnesium sulfate was then removed by filtration. The filtrate was concentrated to obtain 0.61 g (2.96 mmols) of (1R,2S,4S)-1-methyl-2-hydroxy-4-phenylhexylamine.

reactant | N,N-dibenzyl-(1R,2S,4S)-1-methyl-2-hydroxy-4-phenylhexylamine | 3.77 mmols, 1.46 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H]([C@H](C[C@H](CC)C1=CC=CC=C1)O)C | C27H33NO
reactant | acetic acid | 7.53 mmols, 0.43 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | (1R,2S,4S)-1-methyl-2-hydroxy-4-phenylhexylamine | 2.96 mmols, 0.61 g | C[C@H]([C@H](C[C@H](CC)C1=CC=CC=C1)O)N | C13H21NO
